Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
atorvastatin / Cipro / Feraheme
 
Attending: ___.
 
Chief Complaint:
Melena, GI bleeding
 
Major Surgical or Invasive Procedure:
Endoscopy x 2
 
History of Present Illness:
This is a ___ yo M with multiple medical problems including CAD 
s/p DES, HCV cirrhosis, CKD and HIV who presents with c/o black 
tarry stools x 1 day. Pt reports generalized weakness and 
lightheadedness over the past 2 days. Earlier today, he began 
having abdominal pain and then had a black tarry stool. No
reported nausea, vomiting, hematemesis, or BRBPR. Pt was 
hemodynamically stable. H/H declined from baseline of ___ to 
___. Hepatology/GI was contacted and will plan for EGD in am.

In the ED, initial VS were: 98.6, 82, 130/46, 16, 100% RA 
  
ED physical exam was recorded as: "Mild epigastric tenderness, 
no guarding/rebound; Rectal: Appropriate tone, no masses, 
Hemoccult +"

Imaging: bedside US in ED revealed no ascites

ED labs were notable for: Cr 2.7, BUN 80, H/H 7.4/23.5 (drop 
from baseline ___ on ___, platelet 101, INR 1.2, AST 19, 
ALT 14, AP 92, Tbili 0.3

Patient was given:
___ 18:13 IVF  NS  
___ 19:00 IV Esomeprazole sodium 40 mg 
___ 19:17 IVF  NS 500 mL 
___ 19:10 1 unit PRBC

Transfer VS were: 97.8 PO 168 / 75 81 16 98 ra 

When seen on the floor, pt was lying comfortably and offered no 
complaints. No further episodes of black stool. No reported 
abdominal pain, nausea, or vomiting.
  
REVIEW OF SYSTEMS: 
A ten point ROS was conducted and was negative except as above 
in the HPI.
 
Past Medical History:
PAST MEDICAL HISTORY (per nephrology note ___:
1. CKD stage 3B; Etiology unknown, but suspect hypertensive
nephrosclerosis with secondary FSGS
- Nephrotic range proteinuria in the past off ACEi due to
hyperkalemia; proteinuria appeared to correspond with poorly
controlled BPs.
- No biopsy due to co-morbidities and improving proteinuria
2. HIV; on HAART, last VL undetectable   
3. Hepatitis C with portal HTN s/p Harvoni w/ undetectable VL  
4. HTN  
- US ___ negative for RAS
5. Hyperlipidemia  
6. CAD s/p DES to mid-LAD, D1, and distal RCA ___, s/p DES 
to
mLCX ___
- nuclear stress ___ with possible reversible perfusion
defects in LAD/LCx region pending stress echo.
- TTE (___) = preserved EF (>55%)
7. COPD  
8. Anemia of chronic disease, G6PD deficiency  
9. GERD  
10. Chronic diarrhea
11. Metabolic acidosis likely secondary to CKD and diarrhea.  
Has
had inappropriately high urine pH in this setting 
12. Cervical spinal stenosis  
13. Pulmonary TB  
14. Positive RPR treated in the 1970s  
15. IBD on Linzess
 
Social History:
___
Family History:
Mother with heart disease diagnosed at age ___. Brother with 
cardiomegaly. 
 
Physical Exam:
PHYSICAL EXAM on ADMISSION
 Vitals: 97.8 PO 168 / 75 81 16 98 ra 
 Gen: NAD, lying in bed
 Eyes: EOMI, PERRL, sclerae anicteric  
 ENT: MMM, OP clear, upper and lower dentures
 Cardiovasc: RRR, no MRG, full pulses, 2+pitting edema BLE
 Resp: normal effort, no accessory muscle use, lungs CTA ___.
 GI: soft, NT, distended++, BS+
 MSK: No significant kyphosis. No palpable synovitis.
 Skin: No visible rash. No jaundice.
 Neuro: AAOx3. No facial droop.
 Psych: Full range of affect

PHYSICAL EXAM on DISCHARGE
Vitals: 97.6 166/80 70 16 100 RA 
General:  NAD, sitting in chair, comfortable.
HEENT:  OP moist, no LAD, no thrush
Resp: CTA B, no rales, wheezes
CV: RRR without murmurs
GI: firm, distended, normal bowel sounds, no epigastric 
tenderness.  cound not appreciate liver edge, but examined in 
chair.
MS:  1+ edema
Neuro:  alert/oriented X3, moving all extremities, no asterixis
 
Pertinent Results:
Labs on admission
___ 05:22PM BLOOD WBC-6.2 RBC-2.27* Hgb-7.4* Hct-23.5* 
MCV-104* MCH-32.6* MCHC-31.5* RDW-13.4 RDWSD-50.4* Plt ___
___ 05:22PM BLOOD Glucose-110* UreaN-80* Creat-2.7* Na-140 
K-4.0 Cl-99 HCO3-24 AnGap-17*
___ 05:22PM BLOOD ALT-14 AST-19 AlkPhos-92 TotBili-0.3
___ 05:22PM BLOOD Albumin-3.4*

Labs at/near discharge
___ 06:00AM BLOOD WBC-5.6 RBC-2.41* Hgb-7.8* Hct-24.5* 
MCV-102* MCH-32.4* MCHC-31.8* RDW-14.2 RDWSD-53.4* Plt ___
___ 06:25AM BLOOD Glucose-95 UreaN-72* Creat-2.9* Na-142 
K-4.1 Cl-104 HCO3-23 AnGap-15
___ 05:18AM BLOOD ALT-14 AST-21 AlkPhos-85 TotBili-0.3
___ 06:25AM BLOOD Calcium-8.5 Phos-3.9 Mg-2.3

EGD shortly after admission
Esophagus: Normal esophagus.
Stomach: 
  Contents: Red blood was seen in the stomach body. 
  Mucosa: Active venous bleeding of the mucosa with spontaneous 
bleeding was noted in the stomach body. These findings are 
compatible with AVM. BI-CAP Electrocautery was applied for 
hemostasis successfully and for tissue destruction. 
Duodenum: Normal duodenum.

Overall impression: Venous bleeding in the stomach body 
compatible with AVM (thermal therapy). Blood in the stomach 
body. Otherwise normal EGD to third part of the duodenum.

Repeat EGD day of discharge
Esophagus: Normal mucosa was noted.  
Stomach: Other Small scattered clots. Washed off easily with no 
underlying bleeding.
Duodenum: Normal mucosa was noted.  

Overall impression: Normal mucosa in the esophagus. Small 
scattered clots. Washed off easily with no underlying bleeding. 
Normal mucosa in the duodenum. Otherwise normal EGD to third 
part of the duodenum.
 
Brief Hospital Course:
Mr. ___ is a ___ with CKD, CAD, HIV, HCV, cirrhosis, HTN, 
who presented with melena and acute blood loss anemia.

# Acute GI bleed
# Acute blood loss anemia
# Upper GI AVM s/p EGD: After initial resuscitation with 1U PRBC 
he underwent EGD and was found to have bleeding AVM, initially 
felt high risk for continued bleeding. He was started on 
Protonix BID and Carafate QID, and observed over the weekend, 
subsequently taken back for repeat EGD today which proved 
reassuring. H/H was right at threshold, though stable, and with 
CAD/PAD he was transfused 1 more unit (along with Lasix 20mg IV) 
prior to discharge home.
- Protonix BID for 1 month, then resume home PPI
- Carafate QID for 1 week
- Outpatient CBC monitoring
- PCP, ___, and Nephrology appointments arranged by time 
of discharge

# Hypomagnesemia, with CKD stage III: Improved s/p repletion, 
subsequently stable.
- Outpatient Nephrology followup, scheduled prior to discharge

# Hypertension, poorly controlled: Stable. BPs rose while 
medications were held out of initial bleeding concern, but came 
under better control as medications were resumed. Continued home 
antihypertensive regimen.

# Cirrhosis due to
# HCV, s/p treatment: Some mild LFT elevation initially by 
report but LFTs normalized and remained normal over several 
days. Hepatology followed as the GI consult service while 
inpatient. Continued home medications.
- Outpatient hepatology followup - scheduled prior to discharge

# Chronic diastolic CHF: Stable with mild ___ edema. Continued 
home Torsemide after initial stabilization.

# CAD: Stable. Plavix discontinued with plan to not resume. Low 
dose ASA resumed at discharge. Other secondary prevention home 
medications resumed.

# HIV: Stable. Continued home medications.

Billing: >30 minutes spent coordinating discharge home
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Abacavir Sulfate 300 mg PO BID 
2. amLODIPine 10 mg PO DAILY 
3. Carvedilol 25 mg PO BID 
4. Aranesp (in polysorbate) (darbepoetin alfa in polysorbat) 100 
mcg/mL injection q4 weeks 
5. Desonide 0.05% Cream 1 Appl TP Frequency is Unknown 
6. Diltiazem Extended-Release 240 mg PO DAILY 
7. Efavirenz 600 mg PO DAILY 
8. HydrALAZINE 150 mg PO BID 
9. Ipratropium-Albuterol Inhalation Spray 1 INH IH QID 
10. Isosorbide Mononitrate 120 mg PO BID 
11. LaMIVudine 100 mg PO DAILY 
12. Linzess (linaclotide) 145 mcg oral DAILY 
13. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
14. Omeprazole 40 mg PO DAILY 
15. Pravastatin 20 mg PO QPM 
16. Torsemide 40 mg PO DAILY 
17. Aspirin 81 mg PO DAILY 
18. Docusate Sodium 100 mg PO BID 
19. Multivitamins 1 TAB PO DAILY 
20. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
21. Doxazosin 2 mg PO HS 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  Sucralfate 1 gm PO QID 
Take only for 1 more week 
RX *sucralfate 1 gram 1 tablet(s) by mouth four times a day Disp 
#*28 Tablet Refills:*0 
3.  Abacavir Sulfate 300 mg PO BID  
4.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
5.  amLODIPine 10 mg PO DAILY  
6.  Aranesp (in polysorbate) (darbepoetin alfa in polysorbat) 
100 mcg/mL injection q4 weeks  
7.  Aspirin 81 mg PO DAILY  
8.  Carvedilol 25 mg PO BID  
9.  Diltiazem Extended-Release 240 mg PO DAILY  
10.  Docusate Sodium 100 mg PO BID  
11.  Doxazosin 2 mg PO HS  
12.  Efavirenz 600 mg PO DAILY  
13.  HydrALAZINE 150 mg PO BID  
14.  Ipratropium-Albuterol Inhalation Spray 1 INH IH QID  
15.  Isosorbide Mononitrate 120 mg PO BID  
16.  LaMIVudine 100 mg PO DAILY  
17.  Linzess (linaclotide) 145 mcg oral DAILY  
18.  Multivitamins 1 TAB PO DAILY  
19.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
20.  Pravastatin 20 mg PO QPM  
21.  Torsemide 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
GI bleeding from AVM
Acute blood loss anemia on chronic anemia
Chronic kidney disease
Hypertension
Coronary artery and peripheral artery disease
Liver cirrhosis due to hepatitis C
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with GI bleeding. You were treated with 
medications and blood transfusion. You were taken for endoscopy 
and a lesion called an AVM was identified as the source of your 
bleeding, and it was treated successfully. You did well 
thereafter, and had a repeat endoscopy today that was 
reassuring, so you are being discharged home.
 
Followup Instructions:
___